US06627651B1
Methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (400 mg), 3-methoxybenzyl chloride (350 mg) and potassium carbonate (412 mg) were suspended in DMF (15 ml), and the resulting suspension was stirred at 60° C. for 13 hours. The reaction mixture was diluted with ethyl acetate and washed respectively with water and an aqueous saturated solution of sodium chloride, and the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure to remove the solvent, the residue was subjected to purification using silica gel column chromatography (hexane:ethyl acetate=4:1-hexane:ethyl acetate=3:1) to obtain methyl 7-(3-methoxybenzyloxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (459 mg) as a light yellow, amorphous substance.

reactant | Methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 400 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 3-methoxybenzyl chloride | 350 mg | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | potassium carbonate | 412 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 7-(3-methoxybenzyloxy)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 459 mg | COC=1C=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC1 | C20H20O6S
